US04918073
(e) 3,3-Bis(4-fluorophenyl)propyl bromide
50.1 g (0.202 mol) of 3,3-bis(4-fluorophenyl)propanol were dissolved in 150 ml of toluene, and a solution of 21.8 g (0.081 mol) of PBr3 in 50 ml of toluene was added dropwise. The mixture was stirred at room temperature for 30 minutes and at 60° C. for 90 minutes and, for hydrolysis, was poured onto 400 ml of ice, 200 ml of ether were added, the organic phase was separated off, washed with NaHCO3 solution and NaCl solution, dried and concentrated and the residue was distilled in vacuo for purification.

reactant | 3,3-bis(4-fluorophenyl)propanol | 0.202 mol, 50.1 g | FC1=CC=C(C=C1)C(CCO)C1=CC=C(C=C1)F | C15H14F2O
reactant | PBr3 | 0.081 mol, 21.8 g | P(Br)(Br)Br | Br3P
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3-Bis(4-fluorophenyl)propyl bromide | FC1=CC=C(C=C1)C(CCBr)C1=CC=C(C=C1)F | C15H13BrF2
